US20010049374A1
(E)-8-[2-(1,3-Benzodioxol-5-yl)ethenyl]-2-naphthalenecarbonitrile
Example 53B (75 mg, 0.243 mmol), PdCl2(dppf) (20 mg, 0.024 mmol), 3,4-methylenedioxystyrene (43 mg, 0.291 mmol) and diisopropylethylamine (0.170 mL, 0.97 mmol) in N-methylpyrrolidinone (2 mL) were stirred at 90° C. for 18 h, cooled to room temperature and chromatographed on silica gel with 20% ethyl acetate/hexanes to provide 46 mg of the title compound.

reactant | 3,4-methylenedioxystyrene | 0.291 mmol, 43 mg | C1OC=2C=C(C=C)C=CC2O1 | C9H8O2
reactant | diisopropylethylamine | 0.97 mmol, 0.170 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methylpyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
catalyst | PdCl2(dppf) | 0.024 mmol, 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (E)-8-[2-(1,3-Benzodioxol-5-yl)ethenyl]-2-naphthalenecarbonitrile | 46 mg | O1COC2=C1C=CC(=C2)/C=C/C=2C=CC=C1C=CC(=CC21)C#N | C20H13NO2
